US07935674B2
A mixture of 4,6-dichloroindoline (6.57 g) and D-glucose (10.70 g) in H2O (25 ml)-ethyl alcohol (160 ml) was refluxed for 3 days. The organic solvent was evaporated under reduced pressure, and thereto were added brine and ammonium sulfate. The mixture was extracted with ethyl acetate 5 times, and the combined organic layer was dried over sodium sulfate. The insoluble materials were filtered off, and the filtrate was evaporated under reduced pressure to give crude 4,6-dichloro-1-(β-D-gluco-pyranosyl)indoline, which was used in the subsequent step without further purification.

reactant | 4,6-dichloroindoline | 6.57 g | ClC1=C2CCNC2=CC(=C1)Cl | C8H7Cl2N
reactant | D-glucose | 10.70 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl alcohol | 160 ml | C(C)O | C2H6O
solvent | H2O | 25 ml | O | H2O
product | 4,6-dichloro-1-(β-D-gluco-pyranosyl)indoline | ClC1=C2CCN(C2=CC(=C1)Cl)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H17Cl2NO5
